US04770692
A solution of 3.5 g (0.01 mol) of 5-bromo-1-(2-chloro-4-trifluoromethyl-phenyl)-4-cyano-pyrazole is added dropwise at 20°-25° C. to a suspension of 0.011 mol of potassium methylmercaptide, prepared by passing 0.6 g (0.011 mol) of methyl mercaptan into a solution of 1.4 g (0.012 mol) of potassium t-butylate in 50 ml of tetrahydrofuran. The mixture is stirred overnight, poured into water, and extracted by shaking three times with 100 ml of methylene chloride in each case. After drying the combined phases over sodium sulphate, the solution is concentrated in vacuo. An oily residue remains which crystallizes after standing overnight. 3.1 g (98% of theory) of 1-(2-chloro-4-trifluoromethyl-phenyl)-4-cyano-5-methylthio-pyrazole of melting point 59°-62° C. are obtained.

reactant | 5-bromo-1-(2-chloro-4-trifluoromethyl-phenyl)-4-cyano-pyrazole | 0.01 mol, 3.5 g | BrC1=C(C=NN1C1=C(C=C(C=C1)C(F)(F)F)Cl)C#N | C11H4BrClF3N3
reactant | potassium | 0.011 mol | [K] | K
reactant | methyl mercaptan | 0.011 mol, 0.6 g | CS | CH4S
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-(2-chloro-4-trifluoromethyl-phenyl)-4-cyano-5-methylthio-pyrazole | 3.1 g, 98% | ClC1=C(C=CC(=C1)C(F)(F)F)N1N=CC(=C1SC)C#N | C12H7ClF3N3S
